US07820704B2
A mixture of 3-{[4-(4-Isopropyl-phenyl)-thiazol-2-yl]-thiophen-2-ylmethyl-amino}-propionic acid (50 mg, 0.14 mmol), diphenyl phosphoryl azide (50 uL, 0.18 mmol) and DIEA (100 μL) was heated in CH3CN at 60° C. for 1 hour. After cooling to room temperature methane sulfonamide (30 mg, 0.32 mmol) was added and reaction mixture was stirred. After 16 h, the reaction mixture was concentrated in high vacuum. The crude residue was purified on silica gel column (ethyl acetate/hexane 1:1) to afford (2-{[4-(4-Isopropyl-phenyl)-thiazol-2-yl]-thiophen-2-ylmethyl-amino}-ethyl) 3-methanesulfonyl-urea (15 mg). LCMS m/z: 480 (M+1)+.

reactant | 3-{[4-(4-Isopropyl-phenyl)-thiazol-2-yl]-thiophen-2-ylmethyl-amino}-propionic acid | 0.14 mmol, 50 mg | C(C)(C)C1=CC=C(C=C1)C=1N=C(SC1)N(CCC(=O)O)CC=1SC=CC1 | C20H22N2O2S2
reactant | diphenyl phosphoryl azide | 0.18 mmol, 50 uL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | DIEA | 100 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | methane sulfonamide | 0.32 mmol, 30 mg | CS(=O)(=O)N | CH5NO2S
solvent | CH3CN | CC#N | C2H3N
product | (2-{[4-(4-Isopropyl-phenyl)-thiazol-2-yl]-thiophen-2-ylmethyl-amino}-ethyl) 3-methanesulfonyl-urea | 15 mg | C(C)(C)C1=CC=C(C=C1)C=1N=C(SC1)N(CCNC(=O)NS(=O)(=O)C)CC=1SC=CC1 | C21H26N4O3S3
